US08293923B2
Step 2: 3-Amino-4-cyclohexylaminobenzoic acid, ethyl ester
In a 250 mL round bottom flask ethyl 4-(cyclohexylamino)-3-nitrobenzoate (3.01 g, 0.0103 mol) was dissolved in ethanol (40 mL) and 1 gram of 5% palladium on carbon (54.62% water) was added. Cyclohexene (7 mL, 0.07 mol) was then added and the reaction heated at 83° C. for 3 hours. The reaction mixture was filtered through celite and the filter cake washed with ethanol. The combined filtrates were concentrated to give 2.3 g title compound as a brownish tan solid.

reactant | ethyl 4-(cyclohexylamino)-3-nitrobenzoate | 0.0103 mol, 3.01 g | C1(CCCCC1)NC1=C(C=C(C(=O)OCC)C=C1)[N+](=O)[O-] | C15H20N2O4
reactant | Cyclohexene | 0.07 mol, 7 mL | C1=CCCCC1 | C6H10
solvent | ethanol | 40 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 1 gram | [Pd] | Pd
product | 3-Amino-4-cyclohexylaminobenzoic acid, ethyl ester | 2.3 g | NC=1C=C(C(=O)OCC)C=CC1NC1CCCCC1 | C15H22N2O2
